US07632834B2
b) 1-{3-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)ethylamino]-3-methylbutyl}-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one
A suspension of 270 mg (0.438 mmol) 1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one and 27 mg Pd/C (10%) in MeOH (8 mL) is hydrogenated at RT and 1 bar hydrogen pressure for 3 hours. The catalyst is filtered off through CELITE® filter aid and washed with MeOH (5 mL) and the filtrate is concentrated by evaporation in vacuo. The residue is dissolved in EtOAc/dichloromethane (1:1, 10 mL), acidified to pH 2 by the addition of HCl solution (saturated in EtOAc) and concentrated by evaporation in vacuo. The residue is triturated with ether, filtered and dried in vacuo. Yield: 80 mg (33%; hydrochloride), HPLC-MS: Rt=12.8 min. (method A), ESI-MS: [M+H]+=526.

reactant | 1-{3-[2-(6-benzyloxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)-2-hydroxyethylamino]-3-methylbutyl}-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | 0.438 mmol, 270 mg | C(C1=CC=CC=C1)OC=1C=C(C2=C(NC(CO2)=O)C1)C(CNC(CCN1C(OC(C2=C1C=CC=C2)(CCC)CCC)=O)(C)C)O | C36H45N3O6
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 8 mL | CO | CH4O
catalyst | Pd/C | 27 mg | [Pd] | Pd
product | 1-{3-[2-hydroxy-2-(6-hydroxy-3-oxo-3,4-dihydro-2H-benzo[1,4]oxazin-8-yl)ethylamino]-3-methylbutyl}-4,4-dipropyl-1,4-dihydrobenzo[d][1,3]oxazin-2-one | OC(CNC(CCN1C(OC(C2=C1C=CC=C2)(CCC)CCC)=O)(C)C)C2=CC(=CC=1NC(COC12)=O)O | C29H39N3O6
